US08084644B2
To chloroform (80 ml) solution of phenyl N-(4-methoxyphenyl)-3-(phenoxy)acrylimidate (2.4 g) was added dropwise with borone tribromide dichloromethane solution (1.0M: 14.0 ml) under ice-cooling and stirred for one hour at the same temperature and 2.5 hours at room temperature. Chloroform (200 ml) was added to the reaction solution and it was successively washed with water and aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain phenyl N-(4-hydroxyphenyl)-3-(phenoxy)acrylimidate (0.46 g) as white crystal.

reactant | phenyl N-(4-methoxyphenyl)-3-(phenoxy)acrylimidate | 2.4 g | COC1=CC=C(C=C1)N=C(C=COC1=CC=CC=C1)OC1=CC=CC=C1 | C22H19NO3
reactant | tribromide dichloromethane | 1.0M, 14.0 ml | ClCCl.[Br-].[Br-].[Br-]
solvent | Chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | phenyl N-(4-hydroxyphenyl)-3-(phenoxy)acrylimidate | 0.46 g | OC1=CC=C(C=C1)N=C(C=COC1=CC=CC=C1)OC1=CC=CC=C1 | C21H17NO3
